US08557872B2
Step 1: Synthesis of 3-(4-fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester
2-Hydroxy-4-fluoro-benzaldehyde (306 mg, 1.99 mmol) was reacted with methyl (triphenylphosphoranylidene)acetate (681 g, 2.044 mmol) at 110° C. overnight as described above to yield title compound (334 mg, 85%).

reactant | 2-Hydroxy-4-fluoro-benzaldehyde | 1.99 mmol, 306 mg | OC1=C(C=O)C=CC(=C1)F | C7H5FO2
reactant | methyl (triphenylphosphoranylidene)acetate | 2.044 mmol, 681 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
product | 3-(4-fluoro-2-hydroxy-phenyl)-acrylic acid methyl ester | 334 mg, 85% | COC(C=CC1=C(C=C(C=C1)F)O)=O | C10H9FO3
